US06235778B1
e) {1-[[5-Methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethoxy}guanidine hydrochloride
To a solution of N-{1-[[5-methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethoxy}amine (3.5 g, 8.0 mmol), as prepared in the preceding step, in N,N-dimethylformamide (30 mL) was added 1H-pyrazole-carboxamidine hydrochloride (3.7 g, 25.0 mmol). The reaction mixture was stirred at ambient temperature overnight. N,N-Dimethylformamide was removed under high vacuum. Acetonitrile (50 mL) was added and the solid was removed by filtration. The filtrate was concentrated in vacuo and the residue was dried under high vacuum. The residue was partitioned between water (100 mL plus 5 mL brine) and diethyl ether (50 mL). The water solution was extracted with diethyl ether (50 mL). The combined diethyl ether solution was extracted with pH 5 water (30 mL). The combined water solution was adjusted to pH 8-9 by using 2N NaOH and extracted into ethyl acetate (3×100 mL). The ethyl acetate solution was washed with pH 7 buffer solution (5×60 mL) and brine (50 mL) and dried over Na2SO4. After removing the solvent, 0.6N HCl methanol (50 mL) was added and the solution was concentrated. The residual oil was crystallized from methanol/ethyl acetate (1:50) to give the title compound as white solid (3.6 g, 86%). 1H-NMR (300 MHz, DMSO-d6) δ11.07 (br s, 1H), 8.37 (d, J=7.8 Hz, 1H), 8.09-8.14 (m, 2H), 7.97 (t, J=7.7 Hz, 1H), 7.65 (br s, 4H), 6.76 (s, 1H), 6.52 (s, 1H), 6.51 (s, 1H), 3.86 (s, 2H), 3.78 (s, 2H), 3.48 (s, 3H), 2.21 (s, 3H), 0.69 (m, 2H), 0.62 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C20H25N3O7S2: 484.1 (M+H), 506.1 (M+Na). Found: 484.0, 506.0.

reactant | N-{1-[[5-methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethoxy}amine | 8.0 mmol, 3.5 g | CC=1C=C(C=C(OCC2(CC2)CON)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C19H23NO7S2
reactant | 1H-pyrazole-carboxamidine hydrochloride | 25.0 mmol, 3.7 g | Cl.N1N=C(C=C1)C(=N)N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | {1-[[5-Methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethoxy}guanidine hydrochloride | 3.6 g, 86% | Cl.CC=1C=C(C=C(OCC2(CC2)CONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | InChI=1S/C20H25N3O7S2.ClH/c1-14-9-15(28-12-20(7-8-20)13-29-23-19(21)22)11-16(10-14)30-32(26,27)18-6-4-3-5-17(18)31(2,24)25;/h3-6,9-11H,7-8,12-13H2,1-2H3,(H4,21,22,23);1H
